US07572809B2
A 0.5-2.0 mL process vial was charged with 1-(2,4-difluoro-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl trifluoromethanesulfonate (24.3 mg), Pd(OAc)2 (2 mg), Mo(CO)6 (13.2 mg), morpholine (13.0 mg), 1,8-Diazabicyclo[5.4.0]undecen (DBU) (22.9 mg), and dry tetrahydrofuran (THF) (1 mL). The vial was immediately capped under air and heated at 150° C. for 15 min under microwave irradiation. After cooling, the reaction mixture was filtered through a short silica gel column, and the solvent was removed under reduced pressure. The residue was sent to prep-HPLC to get 5 mg of [1-(2,4-difluoro-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-morpholin-4-yl-methanone as a yellow solid. LC-MS m/e 450 MH+. 1H NMR (400 MHz, CDCl3) 7.74(s, 1H), 7.70(s, 1H), 7.66(m, 1H), 7.54(m, 1H), 7.24(m, 1H), 7.10(t, 1H), 7.02(t, 1H), 6.00(s, 1H), 3.83˜3.48(m, 8H), 2.33(s, 3H).

reactant | 1-(2,4-difluoro-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl trifluoromethanesulfonate | 24.3 mg | FC(S(=O)(=O)OC=1C=C2C=C(N=C(C2=CC1)C1=C(C=C(C=C1)F)F)NC1=NNC(=C1)C)(F)F | C20H13F5N4O3S
reactant | morpholine | 13.0 mg | N1CCOCC1 | C4H9NO
reactant | 1,8-Diazabicyclo[5.4.0]undecen | 22.9 mg | N12C=CCCCC2NCCC1 | C9H16N2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | Pd(OAc)2 | 2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [1-(2,4-difluoro-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-morpholin-4-yl-methanone | 5 mg | FC1=C(C=CC(=C1)F)C1=NC(=CC2=CC(=CC=C12)C(=O)N1CCOCC1)NC1=NNC(=C1)C | C24H21F2N5O2
